datasets/10k_Mayr_OG.csv
SMILES Labelled
C1=CC=C(O[C:44]2=[CH:43][CH:42]=[C:41]([CH+:20][C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[CH:46]=[CH:45]2)C=C1.CC[O:82][C:71]([C-:10]1CCCC[C:62]1=[O:61])=[O:72]>>CC[O:82][C:71]([C:10]1([CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)CCCC[C:62]1=[O:61])=[O:72] 10=20
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[CH:22]=[N+:23]2/C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1.C[C:61]1=[CH:62][N:10]=[CH:11][N-:12]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[CH:11]=[N:12][C:61](C)=[CH:62]2)[CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[C:22](=[O:23])[CH:21]=[CH:20]1.CN(C)C1=CC=C([C:61]([CH:10]=[S:11](C)C)=[O:62])C=C1>>CN(C)C1=CC=C([C:61]([CH:10]([S+:11](C)C)[CH:20]2CC[C:22]([O-:23])=[CH:21]2)=[O:62])C=C1 10,11=10,20;20,21=21,22;22,23=23"
"C[C:74]1=[CH:73][CH:72]=[C:71]([CH:10]=[N+:11]([O-:12])[O-:62])[CH:83]=[CH:82]1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[C:74]1=[CH:73][CH:72]=[C:71]([CH:10]([N+:11](=[O:12])[O-:62])[C:20]([C:31]2=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:83]=[CH:82]1 10,11=10,20;12=11,12"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].[H:10][BH2-:11][N+:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>CC[O:34][C:32]([C:21]([CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[C:44](C#N)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33].[BH2:11][N+:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20;20,21=21,22;22,23=23"
"CC1(C)[O:64][C:13]([O-:14])=[C:12]([CH:11]([H:10])[C:92]2=[CH:93][CH:94]=[C:95]([O:96]C)[CH:104]=[CH:103]2)[C:73](=[O:74])[O:84]1.[O-][N+:22]([C:21]1=[CH:20]N2N=N[N:35]=[C:34]2[CH:33]=[CH:32]1)=[O:23]>>CC1(C)[O:64][C:13](=[O:14])[C:12](=[CH:11][C:92]2=[CH:93][CH:94]=[C:95]([O:96]C)[CH:104]=[CH:103]2)[C:73](=[O:74])[O:84]1.[O-][N+:22](=[C:21]1[CH:20]([H:10])N2N=N[N:35]=[C:34]2[CH:33]=[CH:32]1)[O-:23] 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
CC[O:72][C:61]([CH-:10][C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)=[O:62].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1>>CC[O:72][C:61]([CH:10]([CH:20]([C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28)[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)=[O:62] 10=20
"C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Sn:73](C)(C)C.Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1>>C[Sn:63](C)(C)[CH2:62][CH+:11][CH2:72][Sn:73](C)(C)C.Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1.[H:10][F:20] 10,11=10,20;20,21=21"
"C1C[CH:20]=[CH:21][C:22](=[O:23])C1.FC(F)(F)[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1>>FC(F)(F)[C:64]1=[CH:63][CH:62]=[C:61]([O:10][CH:20]2CCC[C:22]([O-:23])=[CH:21]2)[CH:72]=[CH:73]1 10=20;20,21=21,22;22,23=23"
"CC[O:82][C:71]([C-:10](C(C)C)[C:61](=[O:62])[O:112]CC)=[O:72].[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C[CH:20]1C2C3C54>>CC[O:82][C:71]([C:10](C(C)C)([CH:20]1CC2C3C4C1[Fe-3:21]234(C#[O+])(C#[O+])C#[O+])[C:61](=[O:62])[O:112]CC)=[O:72] 10=20;20,21=21"
FC(F)(F)CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.F[C-:10]1[S:61](=[O:62])(=[O:82])C2=C(C=CC=C2)[S:71]1(=[O:72])=[O:92]>>FC(F)(F)CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10]2(F)[S:61](=[O:62])(=[O:82])C3=C(C=CC=C3)[S:71]2(=[O:72])=[O:92])[C:41]2=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"COC1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1.C[CH:10]=[N+:11]([O-:12])[O-:62]>>COC1=CC=C([C:22]2=[CH:21][CH:20]([CH:10](C)[N+:11](=[O:12])[O-:62])[C:31]3=[C:32](C=CC=C3)[O:23]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C1=CC=C(N(C2=CC=CC=C2)[C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N(C4=CC=CC=C4)C4=CC=CC=C4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C=C1.C[NH:61][NH2:10]>>C[NH:61][NH2+:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N(C2=CC=CC=C2)C2=CC=CC=C2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C2=CC=CC=C2)C2=CC=CC=C2)[CH:45]=[CH:46]1 10=20
"CC[N:82](CC)/[C:11](=[CH:10]/[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)[O-:12].C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>CC[N:82](CC)[C:11]([CH:10]([CH:20]([C:21]1=[C:22]([O-:23])[N:51](C)C(=S)[N:52](C)[C:32]1=[O:33])[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
